US06649608B2
2-Chloro-5-fluoro-4-(4-methoxyphenoxy)pyrimidine
Using an analogous method to that described in Method 28, but starting from 2,4-dichloro-5-fluoropyrimidine and 4-methoxyphenol, the product was obtained. NMR: 3.84 (s, 3H), 6.79-7.00 (m, 2H), 7.06-7.18 (m, 2H), 8.31-8.36 (m, 1H); MS (M+): 254, 256.

reactant | 2,4-dichloro-5-fluoropyrimidine | ClC1=NC=C(C(=N1)Cl)F | C4HCl2FN2
reactant | 4-methoxyphenol | COC1=CC=C(C=C1)O | C7H8O2
product | 2-Chloro-5-fluoro-4-(4-methoxyphenoxy)pyrimidine | ClC1=NC=C(C(=N1)OC1=CC=C(C=C1)OC)F | C11H8ClFN2O2
